US08871756B2
(2S)-2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propan-1-ol
The title compound was prepared in analogy to Example 8-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and (2S)-2-aminopropan-1-ol. MS obsd. (ESI+) [(M+H)+] 412, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.89 (t, J=6.32 Hz, 2 H), 7.75 (s, 1 H), 7.64 (t, J=7.20 Hz, 1 H), 7.55-7.43 (m, 1 H), 7.38-7.27 (m, 1 H), 7.27-7.14 (m, 1 H), 6.16 (d, J=8.08 Hz, 1 H), 6.07 (s, 1 H), 5.07 (brs, 2 H), 4.85 (brs, 1 H), 4.42 (brs, 1 H), 3.85 (dt, J=12.82, 6.35 Hz, 1 H), 3.70-3.47 (m, 3 H), 2.36 (s, 3 H), 1.23 (d, J=6.32 Hz, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | (2S)-2-aminopropan-1-ol | N[C@H](CO)C | C3H9NO
product | (2S)-2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propan-1-ol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N[C@H](CO)C)C)=O | C22H25N3O3S
